US07893055B2
Ethyl 2-(2-ethoxy-2-oxoethyl)-2,2′,3′,5,5′,6,6′,7-octahydrospiro[[1,2,4]oxadiazolo[2,3-a]pyridine-8,4′-pyran]-2-carboxylate.
A mixture of 4-(3-chloropropyl)-tetrahydro-2H-pyran-4-carbonitrile (1.83 g, 9.75 mmol) and NaI (3.0 g, 20 mmol) was stirred at ambient temperature for 1 h. To this reaction mixture was added 50% aqueous hydroxylamine (1 mL, 10.87 mmol) and stirred for three-days at ambient temperature. To this was added diethyl acetylenedicarboxylate (1.6 mL, 10 mmol) and stirred for 1 h. Then, the reaction mixture was diluted with EtOAc (100 mL) washed with water (50 mL), brine (10 mL), dried (Na2SO4), filtered and concentrated to give yellow oil. Flash chromatography using 10-50% EtOAc/Hexanes afforded the title compound as pale yellow oil (0.627 g, 18%). 1H NMR (500 MHz, CDCl3) δ: HRMS (M+H) calcd for C17H27N2O5; found. 1H NMR (500 MHz, CDCl3) δ: 4.32-4.20 (2H, m), 4.14 (2H, q, J=7.0 Hz), 3.86 (1H, td, J=11.0, 2.7 Hz), 3.79-3.70 (3H, m), 3.52-3.46 (1H, m), 3.38-3.34 (1H, m), 3.26 (1H, d, JAB=16.2 Hz), 2.97 (1H, d, JAB=16.2 Hz), 2.06-1.89 (4H, m), 1.66-1.66 (2H, m), 1.60-1.53 (2H, m), 1.30 (3H, t, J=7.0 Hz), 1.24 (3H, t, J=7.0 Hz).

reactant | 4-(3-chloropropyl)-tetrahydro-2H-pyran-4-carbonitrile | 9.75 mmol, 1.83 g | ClCCCC1(CCOCC1)C#N | C9H14ClNO
reactant | NaI | 20 mmol, 3.0 g | [Na+].[I-]
reactant | hydroxylamine | 10.87 mmol, 1 mL | NO | H3NO
reactant | diethyl acetylenedicarboxylate | 10 mmol, 1.6 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 2-(2-ethoxy-2-oxoethyl)-2,2′,3′,5,5′,6,6′,7-octahydrospiro[[1,2,4]oxadiazolo[2,3-a]pyridine-8,4′-pyran]-2-carboxylate | 0.627 g, 18% | C(C)OC(CC1(N=C2N(CCCC23CCOCC3)O1)C(=O)OCC)=O | C17H26N2O6
